US07417047B2
Step 5: 2-Amino-5-(4-bromo-3-fluoro-phenyl)-5-(1-ethyl-5-methanesulfonyl-1H-pyrrol-3-yl)-3-methyl-3,5-dihydro-imidazol-4-one
A solution of 1-(3-bromo-4-fluoro-phenyl)-2-(1-ethyl-5-methanesulfonyl-1H-pyrrol-3-yl)-ethane-1,2-dione (0.32 g, 0.79 mmol) in dioxane and EtOH was treated with N-methylguanidine hydrochloride (0.17 g, 1.6 mmol) and Na2CO3(0.18 g, 1.66 mmol), heated to 105° C. for 18 h and concentrated in vacuo. The residue was dissolved in CHCl3, washed with H2O and brine, dried (Na2SO4) and evaporated to dryness at reduced pressure. Chromatography of this residue (silica gel, EtOAc and 1%-2% MeOH-EtOAc as eluent) yielded a solid; 1H NMR (400 MHz, CDCl3) δ: 1.44 (t, 3H, J=7.3 Hz), 3.08 (s, 3H), 3.10 (s, 3H), 3.97 (brs, 2H), 4.21 (q, 2H, J=7.3 Hz), 6.85 (d, 1H, J=2.1 Hz), 6.90 (d, 1H, J=2.1 Hz), 7.06 (t, 1H, J=8.5 Hz), 7.51 (m, 1H), 7.77 (dd, 1H, J=2.3, 6.6 Hz).

reactant | 1-(3-bromo-4-fluoro-phenyl)-2-(1-ethyl-5-methanesulfonyl-1H-pyrrol-3-yl)-ethane-1,2-dione | 0.79 mmol, 0.32 g | BrC=1C=C(C=CC1F)C(C(=O)C1=CN(C(=C1)S(=O)(=O)C)CC)=O | C15H13BrFNO4S
reactant | N-methylguanidine hydrochloride | 1.6 mmol, 0.17 g | Cl.CNC(=N)N
reactant | Na2CO3 | 1.66 mmol, 0.18 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOH | CCO | C2H6O
product | 2-Amino-5-(4-bromo-3-fluoro-phenyl)-5-(1-ethyl-5-methanesulfonyl-1H-pyrrol-3-yl)-3-methyl-3,5-dihydro-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CN(C(=C1)S(=O)(=O)C)CC)C1=CC(=C(C=C1)Br)F | C17H18BrFN4O3S
